US07273865B2
Cyclohexanecarboxylic Acid [7-methoxy-4-(tetrahydro-pyran-4-yl)-thiazolo[5,4-c]pyridin-2-yl]-amide
From cyclohexanecarboxylic acid, HATU and N-methylmorpholine in THF, then treatment with 7-methoxy-4-(tetrahydro-pyran-4-yl)-thiazolo[5,4-c]pyridin-2-ylamine. ES-MS m/e (%): 376 (M+H+, 100).

reactant | cyclohexanecarboxylic acid | C1(CCCCC1)C(=O)O | C7H12O2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | 7-methoxy-4-(tetrahydro-pyran-4-yl)-thiazolo[5,4-c]pyridin-2-ylamine | COC=1C2=C(C(=NC1)C1CCOCC1)SC(=N2)N | C12H15N3O2S
solvent | THF | C1CCOC1 | C4H8O
product | Cyclohexanecarboxylic Acid [7-methoxy-4-(tetrahydro-pyran-4-yl)-thiazolo[5,4-c]pyridin-2-yl]-amide | COC=1C2=C(C(=NC1)C1CCOCC1)SC(=N2)NC(=O)C2CCCCC2 | C19H25N3O3S
